R1 (net17 net20) R=4.4E2
C2 (net21 net12) C=1.1E-14
R3 ( net6 net13)  R=7.2E4
T4 ( net13 net25 vdd! vdd!)  pfet  L=9.47E-6 W=8.00E-6
T5 ( net8 net25 vdd! vdd!)  pfet  L=9.47E-6 W=8.00E-6
T6 ( net7 net13 net8 vdd!)  pfet  L=9.47E-6 W=8.00E-6
T7 (net14 net10 net10 0) pfet L=3.31E-6 W=0.53E-6
T8 ( vdd! vdd! vdd! vdd!)  pfet  L=5.60E-6 W=4.75E-6
T9 ( net21 vdd! vdd! vdd!)  pfet  L=5.60E-6 W=4.75E-6
R10 ( net21 net24)  R=7.2E4
T11 (net16 net10 net10 0) nfet L=3.69E-6 W=2.76E-6
T12 (net18 net19 net19 0) pfet L=5.76E-6 W=9.54E-6
C13 (net24 net15) C=7.1E-10
C14 (net15 0) C=6.2E-6
C15 (net17 net6) C=0.4E-13
T16 (net2 net14 net14 0) nfet L=4.39E-6 W=9.64E-6
C17 (net19 net24) C=2.8E-10
C18 (net17 0) C=4.5E-7
C19 (vdd! net9) C=1.2E-14
T20 (net18 vdd! vdd! 0) nfet L=4.98E-6 W=1.37E-6

