R1 ( net57 net67)  R=0.5E1
T2 ( net67 net227 vdd! vdd!)  pfet  L=9.97E-6 W=9.26E-6
T3 ( net42 net227 vdd! vdd!)  pfet  L=9.97E-6 W=9.26E-6
T4 ( 0 net67 net227 vdd!)  pfet  L=9.97E-6 W=9.26E-6
C5 (net149 net142) C=6.8E-14
T6 ( net92 net92 vdd! vdd!)  pfet  L=1.46E-6 W=5.87E-6
T7 ( net22 net92 vdd! vdd!)  pfet  L=1.46E-6 W=5.87E-6
R8 ( net22 vdd!)  R=2.0E4
T9 (net123 net112 net112 0) pfet L=9.82E-6 W=0.13E-6
T10 (net74 net96 net96 0) pfet L=3.64E-6 W=9.27E-6
T11 (net126 net223 net223 0) pfet L=9.11E-6 W=0.98E-6
T12 (0 net71 net71 0) pfet L=3.05E-6 W=2.67E-6
T13 (net117 net142 net142 0) nfet L=9.59E-6 W=2.51E-6
T14 (net197 net197 net197 0) nfet L=9.63E-6 W=9.62E-6
C15 (net47 net72) C=5.1E-9
T16 (net32 net83 net83 0) nfet L=6.84E-6 W=6.69E-6
R17 (net222 net110) R=7.5E2
R18 (vdd! net41) R=8.2E4
T19 (net164 net119 net119 0) pfet L=6.32E-6 W=4.63E-6
T20 (net135 vdd! vdd! 0) pfet L=5.37E-6 W=6.77E-6
R21 (0 net199) R=6.3E4
R22 (net32 net99) R=6.3E3
C23 (net59 net52) C=1.6E-6
R24 (net154 net28) R=0.9E2
C25 (net166 vdd!) C=8.9E-13
R26 (net25 net11) R=3.0E0
T27 (net114 net97 net97 0) pfet L=0.14E-6 W=3.90E-6
T28 (net71 net92 net92 0) pfet L=6.74E-6 W=2.59E-6
T29 (net164 net150 net150 0) nfet L=8.77E-6 W=1.18E-6
C30 (net3 net19) C=3.7E-11
C31 (net47 net229) C=8.4E-14
C32 (net111 net74) C=5.0E-11
T33 (0 net166 net166 0) nfet L=9.78E-6 W=8.59E-6
R34 (net208 net83) R=4.5E2
T35 (net33 net218 net218 0) nfet L=2.42E-6 W=2.08E-6
T36 (net34 0 0 0) nfet L=5.34E-6 W=5.94E-6
T37 (net65 net148 net148 0) nfet L=7.06E-6 W=8.17E-6
T38 (net210 net216 net216 0) nfet L=9.06E-6 W=4.31E-6
T39 (vdd! net4 net4 0) pfet L=7.47E-6 W=9.03E-6
T40 (net51 net211 net211 0) pfet L=9.31E-6 W=8.25E-6
T41 (net213 net196 net196 0) nfet L=0.32E-6 W=4.39E-6
T42 (net121 net119 net119 0) nfet L=9.21E-6 W=9.90E-6
C43 (net181 net207) C=3.4E-5
T44 (net69 net108 net108 0) nfet L=2.86E-6 W=4.52E-6
T45 (net164 net154 net154 0) pfet L=4.19E-6 W=8.25E-6
R46 (net38 net14) R=8.7E6
R47 (net95 net147) R=2.8E3
C48 (vdd! net157) C=3.8E-6
R49 (net212 net90) R=4.8E3
R50 (net231 net137) R=4.0E1
T51 (net134 net183 net183 0) nfet L=2.86E-6 W=6.09E-6
R52 (net91 net189) R=8.4E1
T53 (net226 net151 net151 0) pfet L=5.18E-6 W=7.40E-6
R54 (net190 net183) R=3.7E1
T55 (net183 net180 net180 0) pfet L=2.74E-6 W=6.29E-6
R56 (net11 net175) R=2.0E6
C57 (0 net99) C=4.9E-12
T58 (net149 net136 net136 0) nfet L=5.77E-6 W=6.89E-6
T59 (net13 net94 net94 0) pfet L=6.95E-6 W=3.31E-6
R60 (net190 net215) R=1.1E5
R61 (net104 net63) R=8.4E1
C62 (net112 net29) C=3.5E-7
C63 (net89 net184) C=6.6E-14
C64 (net142 net159) C=4.4E-9
R65 (net91 net49) R=9.3E1
T66 (net78 net87 net87 0) pfet L=7.87E-6 W=1.18E-6
R67 (net19 net59) R=1.9E4
C68 (net40 net52) C=1.8E-10
R69 (net24 net13) R=7.4E0
R70 (net230 net112) R=9.7E0
T71 (net224 vdd! vdd! 0) pfet L=5.31E-6 W=7.45E-6
T72 (net124 net102 net102 0) nfet L=2.80E-6 W=0.80E-6
R73 (net148 net27) R=6.9E4
R74 (net34 net160) R=1.4E1
R75 (net49 net159) R=7.3E5
T76 (net7 net118 net118 0) pfet L=7.38E-6 W=2.40E-6
T77 (net210 net90 net90 0) pfet L=5.24E-6 W=0.83E-6
T78 (net17 net21 net21 0) pfet L=8.42E-6 W=2.87E-6
T79 (net65 net2 net2 0) pfet L=5.75E-6 W=4.75E-6
T80 (net79 net173 net173 0) pfet L=1.03E-6 W=4.25E-6
T81 (net61 net56 net56 0) nfet L=6.00E-6 W=0.42E-6
T82 (net113 net101 net101 0) nfet L=6.29E-6 W=0.84E-6
R83 (net80 net8) R=5.4E1
C84 (net94 net145) C=1.6E-11
T85 (net18 net174 net174 0) pfet L=0.25E-6 W=2.66E-6
T86 (net16 net92 net92 0) pfet L=6.71E-6 W=2.91E-6
R87 (net134 net151) R=1.4E1
T88 (net28 net86 net86 0) pfet L=4.10E-6 W=4.97E-6
T89 (net146 net139 net139 0) pfet L=2.91E-6 W=6.47E-6
T90 (net228 0 0 0) nfet L=3.32E-6 W=5.83E-6
C91 (net10 net28) C=4.0E-5
C92 (net113 net115) C=7.1E-8
R93 (net210 net132) R=0.3E1
R94 (net41 0) R=5.2E3
T95 (net34 net46 net46 0) nfet L=8.23E-6 W=7.47E-6
R96 (0 net46) R=5.1E2
T97 (net218 net103 net103 0) nfet L=6.52E-6 W=7.46E-6
C98 (net222 net54) C=9.1E-13
T99 (net204 net2 net2 0) pfet L=9.36E-6 W=6.73E-6
C100 (net215 net115) C=5.6E-7
C101 (net194 net60) C=3.6E-10
C102 (net160 net95) C=9.5E-13
C103 (net93 net207) C=2.2E-10
T104 (0 net78 net78 0) pfet L=3.73E-6 W=5.76E-6
T105 (net13 net154 net154 0) nfet L=8.02E-6 W=3.00E-6
R106 (net154 net211) R=0.3E2
T107 (vdd! net123 net123 0) nfet L=3.48E-6 W=7.71E-6
C108 (net218 vdd!) C=1.7E-14
R109 (net224 vdd!) R=3.0E1
T110 (net81 net154 net154 0) nfet L=7.70E-6 W=1.32E-6
T111 (net221 net151 net151 0) nfet L=1.65E-6 W=9.88E-6
T112 (net96 net95 net95 0) nfet L=1.99E-6 W=8.51E-6
C113 (net232 net42) C=9.7E-11
C114 (net102 net94) C=3.3E-5
T115 (net174 net88 net88 0) nfet L=0.43E-6 W=2.25E-6
C116 (net94 net131) C=7.1E-7
R117 (net158 net72) R=0.5E2
T118 (net129 net63 net63 0) nfet L=5.79E-6 W=6.25E-6
C119 (net142 net170) C=4.2E-5
C120 (net63 net188) C=0.2E-6
T121 (net104 vdd! vdd! 0) pfet L=9.72E-6 W=3.41E-6
R122 (net226 net41) R=3.8E5
T123 (net156 net184 net184 0) pfet L=0.39E-6 W=1.33E-6
C124 (net123 net79) C=0.4E-14
C125 (net60 net91) C=7.5E-12
T126 (net171 net27 net27 0) nfet L=2.59E-6 W=3.22E-6
T127 (net112 net123 net123 0) pfet L=3.35E-6 W=7.21E-6
R128 (net210 net60) R=0.3E3
T129 (0 net181 net181 0) pfet L=3.30E-6 W=0.12E-6
R130 (net122 net117) R=7.2E5
C131 (0 net36) C=5.7E-8
T132 (net196 net50 net50 0) nfet L=8.13E-6 W=0.89E-6
C133 (net138 net15) C=9.5E-7
R134 (net107 net116) R=6.2E4
R135 (net47 net93) R=0.9E0
T136 (net150 net143 net143 0) nfet L=3.20E-6 W=2.59E-6
C137 (net109 net185) C=6.1E-13
C138 (net103 net172) C=2.7E-10
R139 (net96 net123) R=0.1E0
C140 (net215 net84) C=0.7E-8
T141 (net118 net134 net134 0) pfet L=5.64E-6 W=3.40E-6
T142 (net54 net217 net217 0) nfet L=8.37E-6 W=2.19E-6
T143 (net99 net34 net34 0) pfet L=9.46E-6 W=5.03E-6
C144 (net139 net129) C=5.4E-7
C145 (vdd! 0) C=7.9E-14
T146 (net190 net120 net120 0) nfet L=2.17E-6 W=4.14E-6
R147 (net58 net158) R=1.6E1
T148 (vdd! net228 net228 0) nfet L=7.44E-6 W=4.49E-6
T149 (0 net135 net135 0) nfet L=7.67E-6 W=9.13E-6
R150 (net178 net120) R=7.0E4
R151 (net35 net19) R=6.3E5
T152 (net8 net7 net7 0) nfet L=4.47E-6 W=1.88E-6
R153 (0 net112) R=6.6E4
C154 (net2 net8) C=4.7E-9
R155 (net45 net121) R=0.3E6
T156 (net195 net175 net175 0) pfet L=7.08E-6 W=7.78E-6
R157 (net71 net116) R=6.9E1
C158 (net161 net24) C=1.3E-8
T159 (net202 net110 net110 0) nfet L=7.29E-6 W=3.97E-6
C160 (net158 net148) C=7.2E-7
R161 (net180 net28) R=5.2E0
T162 (net110 vdd! vdd! 0) pfet L=0.32E-6 W=0.19E-6
C163 (net89 net144) C=5.4E-9
R164 (net43 net138) R=4.1E2
T165 (net123 net30 net30 0) pfet L=0.53E-6 W=2.88E-6
T166 (net111 net154 net154 0) nfet L=1.63E-6 W=8.93E-6
T167 (net140 net48 net48 0) pfet L=9.84E-6 W=7.11E-6
R168 (net116 net41) R=0.4E5
T169 (net180 net228 net228 0) pfet L=1.36E-6 W=2.46E-6
C170 (net175 net116) C=0.3E-13
R171 (0 vdd!) R=4.8E4
R172 (net89 net163) R=8.5E1
T173 (net91 net185 net185 0) pfet L=7.98E-6 W=0.83E-6
R174 (net163 0) R=4.5E0
T175 (net54 net84 net84 0) pfet L=1.16E-6 W=4.12E-6
T176 (net141 net169 net169 0) pfet L=2.90E-6 W=7.95E-6
T177 (0 net225 net225 0) pfet L=9.05E-6 W=0.13E-6
R178 (net47 net9) R=8.3E5
T179 (net92 net2 net2 0) pfet L=3.93E-6 W=2.18E-6
T180 (net7 net19 net19 0) pfet L=6.58E-6 W=2.92E-6
T181 (net69 net146 net146 0) pfet L=7.82E-6 W=5.02E-6
T182 (net160 net24 net24 0) nfet L=2.90E-6 W=4.61E-6
C183 (net170 net173) C=1.5E-6
T184 (net154 net187 net187 0) nfet L=3.00E-6 W=3.13E-6
T185 (net135 net126 net126 0) nfet L=6.28E-6 W=5.46E-6
T186 (net35 net25 net25 0) nfet L=9.36E-6 W=5.84E-6
R187 (net108 net90) R=3.1E1
R188 (net149 vdd!) R=3.7E1
T189 (vdd! net11 net11 0) nfet L=8.69E-6 W=0.58E-6
C190 (net162 net43) C=9.9E-12
R191 (net30 net61) R=9.5E6
T192 (net192 0 0 0) pfet L=1.60E-6 W=0.41E-6
T193 (net170 net79 net79 0) pfet L=3.11E-6 W=7.97E-6
R194 (0 vdd!) R=8.8E4
R195 (net121 vdd!) R=8.6E2
R196 (net35 net217) R=1.2E0
C197 (net179 0) C=4.0E-13
T198 (net131 net165 net165 0) pfet L=2.32E-6 W=2.42E-6
T199 (net96 net172 net172 0) pfet L=2.18E-6 W=5.41E-6
T200 (net159 net98 net98 0) pfet L=0.21E-6 W=9.91E-6
T201 (net112 net224 net224 0) pfet L=1.16E-6 W=2.86E-6
C202 (net183 net35) C=2.2E-6
T203 (net98 0 0 0) pfet L=9.61E-6 W=1.51E-6
T204 (net83 net45 net45 0) nfet L=9.78E-6 W=6.72E-6
C205 (net90 net98) C=3.5E-5
T206 (net55 net213 net213 0) pfet L=5.34E-6 W=2.32E-6
R207 (0 net213) R=7.3E2
T208 (net108 net114 net114 0) pfet L=1.17E-6 W=1.78E-6
T209 (net68 net156 net156 0) pfet L=5.56E-6 W=9.03E-6
T210 (net75 net64 net64 0) nfet L=8.89E-6 W=6.81E-6
C211 (net11 net40) C=8.5E-11
T212 (net209 net185 net185 0) nfet L=6.65E-6 W=0.55E-6
R213 (net173 net225) R=5.7E5
R214 (net63 net28) R=6.2E5
T215 (0 net185 net185 0) pfet L=5.56E-6 W=3.03E-6
T216 (net8 net160 net160 0) pfet L=9.88E-6 W=0.23E-6
T217 (net46 net66 net66 0) pfet L=5.85E-6 W=3.23E-6
T218 (net220 net78 net78 0) pfet L=2.99E-6 W=5.40E-6
T219 (net145 net135 net135 0) pfet L=6.19E-6 W=3.95E-6
T220 (net14 net115 net115 0) pfet L=5.30E-6 W=4.37E-6
T221 (vdd! 0 0 0) pfet L=7.85E-6 W=3.22E-6
C222 (net49 net132) C=6.5E-14
R223 (net65 net169) R=3.6E6
T224 (net144 net231 net231 0) nfet L=4.14E-6 W=3.12E-6
T225 (net181 net152 net152 0) pfet L=8.79E-6 W=1.51E-6
T226 (net23 0 0 0) nfet L=5.41E-6 W=2.36E-6
R227 (net230 net153) R=1.8E6
C228 (net197 net73) C=6.3E-10
R229 (net50 net92) R=2.1E3
T230 (net1 net58 net58 0) nfet L=2.95E-6 W=6.48E-6
C231 (net228 net169) C=6.4E-7
T232 (net169 net9 net9 0) pfet L=9.69E-6 W=5.11E-6
R233 (net28 net62) R=5.6E0
C234 (net164 net63) C=1.9E-12
C235 (net73 net195) C=6.1E-14
R236 (net225 0) R=1.8E5
T237 (net82 net224 net224 0) nfet L=3.30E-6 W=2.83E-6
R238 (net60 net114) R=9.7E6
T239 (net145 net47 net47 0) pfet L=4.76E-6 W=3.45E-6
C240 (net219 net18) C=2.3E-5
C241 (0 net108) C=3.2E-11
C242 (net216 net189) C=1.7E-8
C243 (vdd! net19) C=5.9E-5
T244 (net70 net31 net31 0) pfet L=5.80E-6 W=8.38E-6
T245 (net193 net220 net220 0) pfet L=4.44E-6 W=3.57E-6
R246 (net87 net27) R=5.3E1
T247 (net120 net204 net204 0) nfet L=8.13E-6 W=3.60E-6
T248 (net32 net187 net187 0) nfet L=8.41E-6 W=3.78E-6
R249 (net19 net89) R=7.8E4
T250 (net105 net171 net171 0) pfet L=7.27E-6 W=5.48E-6
T251 (vdd! net155 net155 0) nfet L=0.38E-6 W=1.42E-6
C252 (net104 net90) C=7.7E-11
R253 (net62 net206) R=5.9E6
T254 (net218 net3 net3 0) pfet L=9.85E-6 W=2.20E-6
R255 (net211 net65) R=1.8E3
T256 (net45 vdd! vdd! 0) nfet L=5.36E-6 W=2.86E-6
T257 (net211 0 0 0) nfet L=1.82E-6 W=4.75E-6
T258 (net15 net2 net2 0) pfet L=1.50E-6 W=0.40E-6
R259 (net188 net24) R=4.9E2
T260 (net28 net91 net91 0) nfet L=6.64E-6 W=2.53E-6
C261 (net39 net194) C=1.4E-7
T262 (net218 net105 net105 0) pfet L=2.22E-6 W=3.09E-6
R263 (net213 net155) R=1.7E5
C264 (net107 net38) C=5.2E-8
T265 (0 net66 net66 0) pfet L=9.89E-6 W=2.12E-6
T266 (0 net216 net216 0) nfet L=5.18E-6 W=3.93E-6
R267 (0 vdd!) R=6.9E3
T268 (vdd! net112 net112 0) nfet L=4.76E-6 W=9.23E-6
T269 (net118 net130 net130 0) pfet L=4.17E-6 W=4.28E-6
C270 (net141 net93) C=4.9E-13
C271 (net110 net51) C=4.2E-9
C272 (net131 net24) C=6.1E-13
R273 (net82 net46) R=6.7E6
R274 (net106 net15) R=3.0E2
C275 (net15 net152) C=9.8E-5
T276 (net36 net30 net30 0) pfet L=0.38E-6 W=3.76E-6
R277 (vdd! net92) R=2.3E0
T278 (net64 net211 net211 0) nfet L=1.97E-6 W=9.54E-6
C279 (net214 net81) C=9.3E-9
T280 (net175 net142 net142 0) pfet L=3.46E-6 W=3.68E-6
T281 (net110 net138 net138 0) nfet L=3.40E-6 W=1.32E-6
C282 (net98 net170) C=0.4E-9
T283 (0 net176 net176 0) nfet L=4.81E-6 W=3.63E-6
C284 (vdd! net152) C=6.4E-8
R285 (net146 net151) R=4.9E2
T286 (net17 net197 net197 0) pfet L=2.44E-6 W=8.66E-6
C287 (net37 net225) C=4.9E-7
C288 (net138 0) C=6.6E-7
T289 (net215 net224 net224 0) nfet L=0.28E-6 W=1.45E-6
T290 (net111 net155 net155 0) nfet L=9.30E-6 W=9.41E-6
T291 (vdd! net170 net170 0) pfet L=1.52E-6 W=5.07E-6
R292 (net8 net99) R=4.6E0
T293 (net58 net132 net132 0) pfet L=5.35E-6 W=7.62E-6
R294 (net34 net197) R=0.4E6
T295 (net124 net95 net95 0) nfet L=0.56E-6 W=0.35E-6
C296 (net92 net17) C=5.6E-8
T297 (net232 0 0 0) pfet L=2.72E-6 W=7.93E-6
T298 (net144 net97 net97 0) nfet L=8.08E-6 W=9.30E-6
T299 (net75 net179 net179 0) pfet L=1.92E-6 W=0.60E-6
R300 (net3 net175) R=0.1E0
T301 (net77 net153 net153 0) pfet L=1.14E-6 W=6.25E-6
R302 (net14 net99) R=1.6E1
R303 (net218 net171) R=7.0E3
C304 (0 net108) C=4.0E-10
T305 (net169 net183 net183 0) pfet L=2.04E-6 W=0.83E-6
T306 (net160 net211 net211 0) nfet L=6.04E-6 W=0.48E-6
T307 (net49 net90 net90 0) pfet L=5.99E-6 W=6.56E-6
R308 (net175 net152) R=6.4E4
C309 (net24 net106) C=6.4E-14
R310 (net92 net106) R=6.4E0
R311 (net25 net27) R=9.1E1
T312 (net82 vdd! vdd! 0) nfet L=8.46E-6 W=3.60E-6
T313 (net37 net126 net126 0) pfet L=9.16E-6 W=0.37E-6
R314 (net158 net36) R=5.7E3
T315 (net163 net15 net15 0) pfet L=4.59E-6 W=9.18E-6
T316 (net83 net119 net119 0) pfet L=1.24E-6 W=8.97E-6
C317 (net114 net83) C=7.6E-6
T318 (net127 net132 net132 0) pfet L=9.05E-6 W=7.45E-6
T319 (net201 net174 net174 0) nfet L=8.08E-6 W=1.28E-6
T320 (net156 0 0 0) pfet L=1.60E-6 W=1.18E-6
C321 (net160 net155) C=3.6E-11
T322 (net156 net103 net103 0) nfet L=2.51E-6 W=8.59E-6
T323 (net139 net79 net79 0) pfet L=8.31E-6 W=6.41E-6
R324 (net25 net160) R=1.7E0
T325 (net85 net166 net166 0) nfet L=0.15E-6 W=6.44E-6
R326 (0 net23) R=7.5E3
T327 (net110 net208 net208 0) nfet L=7.99E-6 W=7.66E-6
R328 (net200 net52) R=3.3E5
R329 (net86 net170) R=5.4E1
R330 (net41 net89) R=5.9E4
T331 (net217 net83 net83 0) pfet L=3.76E-6 W=0.93E-6
T332 (net120 net41 net41 0) pfet L=9.75E-6 W=9.37E-6
T333 (net178 net229 net229 0) nfet L=4.35E-6 W=3.99E-6
R334 (net213 net180) R=0.3E5
T335 (net54 net43 net43 0) pfet L=5.17E-6 W=7.60E-6
R336 (net161 net202) R=0.3E2
T337 (net147 net109 net109 0) nfet L=7.11E-6 W=5.82E-6
R338 (net213 net128) R=3.2E0
R339 (net111 net184) R=5.8E0
T340 (net3 net113 net113 0) pfet L=2.74E-6 W=0.69E-6
T341 (vdd! net52 net52 0) pfet L=2.61E-6 W=3.34E-6
T342 (net71 0 0 0) nfet L=3.91E-6 W=1.61E-6
C343 (net77 net32) C=8.6E-9
T344 (net62 net177 net177 0) nfet L=7.17E-6 W=7.50E-6
R345 (net9 net205) R=6.5E3
C346 (net208 net3) C=4.8E-8
C347 (net45 net39) C=5.4E-14
C348 (net187 net186) C=0.3E-6
T349 (net125 vdd! vdd! 0) pfet L=6.61E-6 W=8.20E-6
R350 (net21 net232) R=3.7E5
R351 (vdd! net178) R=9.6E4
T352 (net159 net5 net5 0) nfet L=7.39E-6 W=3.42E-6
T353 (net108 vdd! vdd! 0) nfet L=8.99E-6 W=0.46E-6
T354 (net173 net63 net63 0) nfet L=6.03E-6 W=5.32E-6
R355 (net140 net49) R=9.1E6
R356 (net184 net88) R=8.7E5
T357 (net184 net126 net126 0) pfet L=8.51E-6 W=1.49E-6
R358 (net95 net85) R=8.8E4
T359 (net108 net196 net196 0) pfet L=3.80E-6 W=1.79E-6
R360 (net204 net157) R=5.7E1
R361 (net182 net120) R=1.0E4
T362 (net203 net26 net26 0) pfet L=3.60E-6 W=2.53E-6
T363 (net123 net10 net10 0) pfet L=3.09E-6 W=3.31E-6
R364 (net186 vdd!) R=5.1E6
R365 (net183 net9) R=8.4E0
C366 (net128 net226) C=4.8E-8
T367 (net211 net190 net190 0) nfet L=8.64E-6 W=8.92E-6
C368 (net17 0) C=3.3E-13
C369 (net81 net30) C=9.2E-9
C370 (net201 0) C=2.4E-11
R371 (net98 net154) R=2.6E3
C372 (net138 net153) C=6.2E-5
T373 (vdd! net223 net223 0) pfet L=9.58E-6 W=8.82E-6
T374 (net9 net61 net61 0) pfet L=7.80E-6 W=2.65E-6
T375 (net105 vdd! vdd! 0) nfet L=8.78E-6 W=2.99E-6
T376 (net56 net218 net218 0) pfet L=9.02E-6 W=4.81E-6
T377 (0 net112 net112 0) nfet L=3.09E-6 W=5.41E-6
T378 (net91 net14 net14 0) nfet L=1.85E-6 W=1.36E-6
C379 (net156 net65) C=3.3E-5
T380 (net133 net5 net5 0) pfet L=2.85E-6 W=7.20E-6
R381 (net164 net80) R=0.4E5
R382 (net47 net34) R=2.8E0
T383 (net191 net149 net149 0) pfet L=6.59E-6 W=8.93E-6
T384 (net127 net185 net185 0) pfet L=0.16E-6 W=4.55E-6
C385 (net112 net108) C=1.0E-11
T386 (net222 net105 net105 0) pfet L=3.55E-6 W=6.25E-6
T387 (net32 net20 net20 0) pfet L=7.79E-6 W=1.67E-6
T388 (net111 net100 net100 0) pfet L=6.94E-6 W=1.70E-6
R389 (vdd! net137) R=9.9E4
R390 (net224 net209) R=8.4E1
T391 (net222 net174 net174 0) pfet L=2.60E-6 W=6.60E-6
T392 (net231 net105 net105 0) nfet L=4.84E-6 W=3.66E-6
T393 (net139 net106 net106 0) pfet L=8.79E-6 W=1.21E-6
T394 (net113 net142 net142 0) pfet L=7.48E-6 W=2.46E-6
R395 (net73 net211) R=1.2E3
T396 (net162 net200 net200 0) nfet L=6.00E-6 W=8.31E-6
T397 (net26 net95 net95 0) pfet L=9.42E-6 W=0.74E-6
R398 (net127 net121) R=2.5E0
R399 (net108 net123) R=7.8E3
T400 (net146 net20 net20 0) nfet L=2.36E-6 W=6.36E-6
T401 (net29 net25 net25 0) nfet L=6.01E-6 W=2.64E-6
R402 (0 net53) R=3.1E3
T403 (net133 net76 net76 0) pfet L=5.61E-6 W=8.82E-6
T404 (net113 net221 net221 0) nfet L=7.14E-6 W=7.25E-6
T405 (net98 net115 net115 0) nfet L=8.92E-6 W=5.26E-6
T406 (net73 net125 net125 0) nfet L=4.51E-6 W=7.57E-6
T407 (net180 net34 net34 0) nfet L=9.60E-6 W=1.89E-6
C408 (net229 net174) C=4.8E-12
C409 (net225 net34) C=2.2E-7
T410 (net100 net34 net34 0) nfet L=1.89E-6 W=2.04E-6
C411 (net205 net193) C=8.3E-7
T412 (net220 net8 net8 0) nfet L=1.33E-6 W=5.62E-6
R413 (net231 net3) R=8.2E5
T414 (net97 net160 net160 0) pfet L=6.46E-6 W=4.98E-6
T415 (net162 vdd! vdd! 0) pfet L=9.70E-6 W=1.80E-6
R416 (net231 net3) R=9.0E5
T417 (net108 net7 net7 0) pfet L=7.19E-6 W=7.52E-6
T418 (net127 net88 net88 0) nfet L=6.45E-6 W=7.24E-6
R419 (vdd! net105) R=4.4E6
C420 (net6 net100) C=8.9E-7
T421 (net118 net103 net103 0) pfet L=6.74E-6 W=9.29E-6
C422 (net145 net64) C=5.7E-7
T423 (net54 net205 net205 0) pfet L=5.59E-6 W=1.68E-6
R424 (net33 net223) R=6.6E1
T425 (vdd! net206 net206 0) nfet L=0.32E-6 W=6.59E-6
T426 (0 net169 net169 0) nfet L=7.16E-6 W=8.34E-6
C427 (net179 0) C=2.4E-13
T428 (net85 net186 net186 0) nfet L=6.17E-6 W=9.43E-6
T429 (vdd! net159 net159 0) nfet L=3.66E-6 W=7.93E-6
T430 (net3 net111 net111 0) nfet L=7.34E-6 W=6.78E-6
R431 (net42 net109) R=7.2E6
C432 (net30 net98) C=4.2E-8
C433 (net171 net201) C=9.3E-9
T434 (net219 net50 net50 0) nfet L=7.34E-6 W=8.37E-6
T435 (net105 net29 net29 0) nfet L=9.43E-6 W=4.47E-6
T436 (net76 net226 net226 0) pfet L=0.92E-6 W=4.35E-6
R437 (net40 0) R=8.3E6
T438 (net98 net162 net162 0) nfet L=2.25E-6 W=1.71E-6
C439 (0 net66) C=8.1E-11
C440 (net60 net151) C=6.7E-14
R441 (net101 net205) R=6.0E5
T442 (net126 net124 net124 0) nfet L=3.94E-6 W=9.23E-6
T443 (net219 net163 net163 0) pfet L=5.99E-6 W=9.78E-6
T444 (net93 net170 net170 0) nfet L=6.75E-6 W=6.83E-6
R445 (net160 net39) R=9.4E3
C446 (net230 net41) C=6.7E-10
T447 (0 net116 net116 0) pfet L=0.24E-6 W=2.71E-6
C448 (net9 net112) C=4.8E-5
T449 (net179 net41 net41 0) nfet L=0.85E-6 W=0.18E-6
T450 (net3 net165 net165 0) nfet L=9.49E-6 W=0.75E-6
C451 (net208 net79) C=6.4E-12
T452 (net49 net99 net99 0) pfet L=9.17E-6 W=6.02E-6
T453 (net125 net183 net183 0) nfet L=0.47E-6 W=8.35E-6
T454 (net141 net182 net182 0) nfet L=6.23E-6 W=2.19E-6
T455 (0 net232 net232 0) pfet L=7.26E-6 W=7.64E-6
T456 (net151 net15 net15 0) pfet L=9.65E-6 W=4.60E-6
C457 (net54 net17) C=7.1E-8
T458 (net205 net225 net225 0) pfet L=2.30E-6 W=4.50E-6
C459 (net127 net7) C=4.5E-11
C460 (net69 net123) C=9.3E-12
T461 (net215 net111 net111 0) nfet L=8.87E-6 W=5.18E-6
T462 (net189 net218 net218 0) pfet L=1.95E-6 W=1.70E-6
R463 (net5 net130) R=2.9E2
T464 (net84 net230 net230 0) nfet L=7.49E-6 W=5.68E-6
R465 (net135 net98) R=7.3E4
T466 (net139 net59 net59 0) nfet L=5.87E-6 W=9.87E-6
T467 (net47 net146 net146 0) pfet L=4.15E-6 W=1.64E-6
T468 (net15 net163 net163 0) pfet L=3.16E-6 W=2.91E-6
R469 (net205 net112) R=5.2E3
T470 (net4 net103 net103 0) pfet L=2.46E-6 W=4.23E-6
T471 (net157 vdd! vdd! 0) pfet L=8.25E-6 W=8.01E-6
T472 (net19 0 0 0) pfet L=7.10E-6 W=9.26E-6
R473 (net160 net27) R=2.9E6
C474 (net45 net121) C=1.3E-6
C475 (net136 0) C=7.1E-12
T476 (net123 0 0 0) nfet L=1.39E-6 W=4.96E-6
T477 (net49 net104 net104 0) pfet L=2.07E-6 W=5.64E-6
T478 (net81 net200 net200 0) nfet L=4.37E-6 W=2.66E-6
T479 (net126 net139 net139 0) pfet L=5.68E-6 W=8.29E-6
T480 (net142 vdd! vdd! 0) pfet L=2.57E-6 W=1.03E-6
R481 (net228 net89) R=2.5E2
T482 (net105 net33 net33 0) nfet L=4.91E-6 W=7.12E-6
T483 (vdd! net71 net71 0) nfet L=8.21E-6 W=6.80E-6
T484 (net69 net120 net120 0) pfet L=2.02E-6 W=2.39E-6
T485 (net145 net160 net160 0) pfet L=5.14E-6 W=2.97E-6
C486 (net107 net4) C=8.0E-10
C487 (net219 net170) C=5.1E-10
T488 (net60 net213 net213 0) nfet L=8.50E-6 W=4.81E-6
R489 (net28 net53) R=8.6E4
T490 (net121 net99 net99 0) nfet L=1.25E-6 W=5.42E-6
C491 (net217 vdd!) C=4.5E-8
T492 (net196 net126 net126 0) pfet L=7.55E-6 W=5.71E-6
R493 (net212 net83) R=4.2E2
R494 (0 net68) R=4.5E3
R495 (net210 net39) R=6.2E6
T496 (net47 net38 net38 0) pfet L=7.95E-6 W=8.89E-6

